datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([S:13][H:23])[c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:20])([H:21])[H:22])([S:13][H:23])[c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28],-4.184
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([C:12]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10](=[C:9]([H:13])[H:14])[C:11]([C:12]([H:16])([H:17])[H:18])[H:15])[H:4],41.7982
[C:0]([N:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[H:7]>>[C:0]([N:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[H:7],-0.523
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([S:13][H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([S:13][H:16])([H:14])[H:15],21.3384
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[C:22]([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])[H:8].[H:9][C:22]([H:23])([H:24])[H:25],0.0
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:21]([C:20]([H:24])([H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:10])([H:8])[H:9],5.94128
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:8],33.9741
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:4])[H:13])[O:5][O:6])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]=[O:4])[O:5][O:6][H:13])([H:7])([H:8])[H:9],107.738
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[H:8]>>[C:0](=[C:1]=[C:2]([H:6])[H:7])([H:3])[H:4].[H:5][H:8],10.803088
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](#[C:25][C:26]([C:27]([H:30])([H:31])[H:32])[H:29])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25]#[C:24][H:28])([C:27]([H:30])([H:31])[H:32])[H:29])[H:12],40.3756
[C:0]([C:1]([O:2][H:11])([C:3]([C:4]([O:5][O:6])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([O:2][H:11])[C:3]([C:4]([O:5][O:6][H:10])([H:14])[H:15])([H:12])[H:13])([H:7])([H:8])[H:9],64.4336
[C:0]([H:1])([H:2])[H:3].[O:4][H:5]>>[C:0]([H:2])[H:3].[H:1][O:4][H:5],16.7267952
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22],55.1451
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:26]([C:25]([H:28])([H:29])[H:30])([C:27]([H:32])([H:33])[H:34])[H:31])([H:11])([H:12])[H:13],19.9158
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[C:35]([H:36])([H:37])[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:20][C:35]([H:36])([H:37])[H:38],22.92832
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]([H:13])([H:14])[H:15])[S:11][H:16])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8]#[C:7][H:12])([C:10]([H:13])([H:14])[H:15])[S:11][H:16],58.9944
